US07405305B2
4-(6-Chloroindol-1-yl)piperidine-1-carboxylic acid tert-butyl ester
Dissolve 4-(6-chloro-2,3-dihydroindol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (3.1 g, 9.2 mmol) in tetrahydrofuran (50 mL) and cool to 0° C. under nitrogen. Dissolve DDQ (2.1 g, 1 eq) in tetrahydrofuran (25 mL) and add dropwise to the reaction over 15 minutes. Stir for 30 minutes at 0° C. Dilute with ethyl acetate then wash with saturated sodium bicarbonate followed by brine. Dry over magnesium sulfate, filter and concentrate to give 3.15 g (102%) crude product. MS (ES, m/z): 279.1 (M+1, product—tert butyl).

reactant | 4-(6-chloro-2,3-dihydroindol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 9.2 mmol, 3.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)Cl | C18H25ClN2O2
reactant | DDQ | 2.1 g, 1 eq | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-Chloroindol-1-yl)piperidine-1-carboxylic acid tert-butyl ester | 3.15 g, 102% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=CC2=CC=C(C=C12)Cl | C18H23ClN2O2
